US07504412B2
Repeating the operations of Production Example 14 using 4-(methoxycarbonyl)phenylboronic acid and 2,5-dichloropyridine, methyl 4-(5-chloro-2-pyridyl)benzoate was obtained. Hydrolyzing the same with 5N aqueous sodium hydroxide solution, the title compound was obtained as white solid.

reactant | 4-(methoxycarbonyl)phenylboronic acid | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | 2,5-dichloropyridine | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
product | methyl 4-(5-chloro-2-pyridyl)benzoate | ClC=1C=CC(=NC1)C1=CC=C(C(=O)OC)C=C1 | C13H10ClNO2
